US04065501
N-Methyl-2-{2[α-(tricyclo-(2.2.1.02.6)hept-3-ylidene)-benzyloxy]-ethyl}-pyrrolidine
5.28 g. (0.11 mol) of a 50% sodium hydride/mineral oil dispersion were purified as in Example 6, followed by the dropwise addition while stirring under nitrogen of 80 ml. of dimethyl sulphoxide. The reaction mixture was then heated for 30 minutes at 70°-80° C. until the evolution of hydrogen stopped, after which it was cooled to room temperature and a solution of 19.83 g. (0.1 mol) of tricyclo-(2.2.1.02.6)-hept-3-yl phenyl ketone in 25 ml. of dimethyl sulphoxide added dropwise to it. After stirring for another hour at 35°-40° C., 16.25 g. (0.11 mol) of N-methyl pyrrolidyl-2-ethyl chloride in 15 ml. of dimethyl sulphoxide were added and the mixture stirred for another 2.5 hours at 35° to 40° C. The reaction mixture was then poured into 300 ml. of water, the oil precipitated was extracted with ether and the ether phase dried with anhydrous sodium sulphate. Filtration and concentration of the solvent by evaporation in vacuo left an oily residue which was converted into the hydrochloride in chloroform with 2N hydrochloric acid.

reactant | tricyclo-(2.2.1.02.6)-hept-3-yl phenyl ketone | 0.1 mol | C1(=CC=CC=C1)C(=O)C1C2C3C2CC1C3 | C14H14O
reactant | N-methyl pyrrolidyl-2-ethyl chloride | 0.11 mol | CN1C(CCC1)C(C)Cl | C7H14ClN
solvent | dimethyl sulphoxide | CS(=O)C | C2H6OS
product | N-Methyl-2-{2[α-(tricyclo-(2.2.1.02.6)hept-3-ylidene)-benzyloxy]-ethyl}-pyrrolidine | CN1C(CCC1)CCOC(C1=CC=CC=C1)=C1C2C3C2CC1C3 | C21H27NO
